US05665725
An ether solution (50 ml) of methyl benzo[b]thiophene-3-carboxylate (15 g) was added dropwise to a suspension of lithium aluminium hydride (3.5 g) in ether (100 ml) followed by reflux for 2 h. Usual work-up gave benzo[b]thiophen-3-yl methanol (13.5 g) as an oil. The oil was dissolved in tetrahydrofuran (50 ml) and added dropwise to a suspension of NaH (5 g of an 80% paraffinsuspension) in tetrahydrofuran (100 ml) followed by reflux for 1 h. Ethyl bromoacetate (35 g) in tetrahydrofuran (50 ml) was added at 60° C. followed by reflux for 1 h. Additional ethyl bromoacetate (20 g) was added followed by reflux for 7 h. The reaction was quenched with water and the volatiles removed in vacuo. The remaining oil was applied to a silica gel column (eluent:ethyl acetate/heptane 2:8) giving ethyl benzo[b]thiophen-3-ylmethyloxyacetate (5 g) as an oil. Reduction with lithium aluminium hydride as described above yielded 3.8 g of 2-(benzo[b]thiophen-3-ylmethyloxy)ethanol as an oil. The title compound 35a was obtained by the method described in EXAMPLE 2 using spiro[isobenzofuran-1(3H),4'-piperidine] and crystallized as the fumarate salt from an acetone/ethanol mixture by addition of fumaric acid. Yield: 0.55 g, mp: 149°-50° C.

reactant | methyl benzo[b]thiophene-3-carboxylate | 15 g | S1C2=C(C(=C1)C(=O)OC)C=CC=C2 | C10H8O2S
reactant | lithium aluminium hydride | 3.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | benzo[b]thiophen-3-yl methanol | 13.5 g | S1C2=C(C(=C1)CO)C=CC=C2 | C9H8OS
